US07157488B2
6-Trifluoromethoxy-1H-indole
Combine N,N-dimethyl-2-(2-nitro-4-trifluoromethoxyphenyl)vinylamine (4.64 g, 16.8 mmol) and Raney® nickel (900 mg) in ethanol (100 ml). Hydrogenate at 60 psi (410 kPa). and ambient temperature. After 18 hours, filter through celite, concentrate the filtrate to residue, and chromatograph on silica gel eluting with hexanes/ethyl acetate (30/70) to give, after evaporation, the title compound as an off-white powder: mp 59° C. MS (ACPI): m/e 200.0 (M−1).

reactant | N,N-dimethyl-2-(2-nitro-4-trifluoromethoxyphenyl)vinylamine | 16.8 mmol, 4.64 g | CN(C)C=CC1=C(C=C(C=C1)OC(F)(F)F)[N+](=O)[O-] | C11H11F3N2O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney® nickel | 900 mg | [Ni] | Ni
product | 6-Trifluoromethoxy-1H-indole | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
